US05059709
α-[(Dimethylamino)methylene]-β-oxo-3-thiophenepropanenitrile
A mixture of 41.2 g of 5-(3-thienyl)isoxazole and 36.0 g of dimethylformamide dimethylacetal, under nitrogen, is heated on a stream bath for 4 hours. The reaction is concentrated in vacuo to give a viscous oil which solidified. The residue is dissolved in methylene chloride and passed thru a short column of hydrous magnesium silicate. On cooling, 31.76 g of the desired product is obtained, mp 118°-119°, CI-MS:m/z 206(M30). Concentrating in vacuo the methylene chloride gives an additional 20.2 g of product. (Total recovered 51.96 g, 92%).

reactant | 5-(3-thienyl)isoxazole | 41.2 g | S1C=C(C=C1)C1=CC=NO1 | C7H5NOS
reactant | dimethylformamide dimethylacetal | 36.0 g | COC(N(C)C)OC | C5H13NO2
reactant | magnesium silicate | [Si]([O-])([O-])([O-])[O-].[Mg+2].[Mg+2]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | α-[(Dimethylamino)methylene]-β-oxo-3-thiophenepropanenitrile | 31.76 g | CN(C)C=C(C#N)C(C1=CSC=C1)=O | C10H10N2OS
